US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(pyrimidin-2-yloxy)-ethyl]-phenyl ester
The title compound was prepared in 24% yield as light yellow crystals using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 2-hydroxypyrimidine. NMR (400 MHz; CDCl3): δ 3.11 (t, 2H), 3.42 (br s, 3H), 4.54 (t, 2H), 6.93 (t, 1H), 7.05 (d, 2H), 7.25–7.42 (m, 7H), 8.51 (d, 2H); HPLC-MS: m/z=350.2 (M+1); Rt=2.86 min.

reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 2-hydroxypyrimidine | OC1=NC=CC=N1 | C4H4N2O
product | Methyl-phenyl-carbamic acid 4-[2-(pyrimidin-2-yloxy)-ethyl]-phenyl ester | 24% yield | N1=C(N=CC=C1)OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H19N3O3
